US07521448B2
N-(2-morpholin-4-ylethyl)-1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxamide.
A 0.3 M THF solution of 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylic acid (100 mg, 0.23 mmol) and CDI (76 mg, 0.46 mmol) was stirred at 60° C. for 4 h, after which the mixture was treated with a primary or secondary amine (0.35 mmol) and heating continued for a further 16 h. After this time, the mixture was concentrated in vacuo and the resulting residue purified by chromatography over silica gel. Recrystallization of the eluted product afforded

reactant | 1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxylic acid | 0.23 mmol, 100 mg | FC(OC1=CC=C(COC2=CC=C(C=C2)N2C=NC3=C2C=CC(=C3)C(=O)O)C=C1)(F)F | C22H15F3N2O4
reactant | CDI | 0.46 mmol, 76 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 0.3 M | C1CCOC1 | C4H8O
product | N-(2-morpholin-4-ylethyl)-1-(4-{[4-(trifluoromethoxy)benzyl]oxy}phenyl)-1H-benzimidazole-5-carboxamide | N1(CCOCC1)CCNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(C=C2)OCC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C28H27F3N4O4
